* NGSPICE file created from detronyx_12t_read_row_decode7_wl_driver_rc1.ext - technology: gf180mcuD

.subckt detronyx_12t_read_row_decode7_wl_driver_rc1 VDD VSS ren a[0] a[1] a[2] a[3]
+ a[4] a[5] a[6] rwl0
X0 VDD a[1] a_240_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X1 VDD a_1536_8156# a_4216_8112# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X2 a_816_8156# a[1] a_384_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X3 VSS a_4648_8112# a_4272_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X4 VDD a[6] a_2400_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X5 VSS ren a_2976_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X6 a_384_8156# a[0] a_240_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X7 VSS a_7584_8156# rwl0 VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X8 VDD a_6720_8156# a_7152_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X9 a_2976_8156# a[6] a_2544_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X10 VDD a_240_8156# a_3784_8112# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X11 VSS a_3696_8156# a_6288_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X12 VDD a[5] a_2400_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X13 VSS a_2400_8156# a_4648_8112# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X14 VSS a_240_8156# a_3784_8112# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X15 VDD a[4] a_1536_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X16 VDD a_4648_8112# a_3696_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X17 VSS a_7152_8156# a_7584_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X18 a_4272_8156# a_4216_8112# a_3840_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X19 VDD a[0] a_240_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X20 VDD a_4216_8112# a_3696_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X21 VDD a_6288_8156# a_6720_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X22 a_2544_8156# a[5] a_2400_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X23 VDD a[3] a_1536_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X24 VSS a[2] a_816_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X25 VSS a_6288_8156# a_6720_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X26 VDD a_3696_8156# a_6288_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X27 VSS a_1536_8156# a_4216_8112# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X28 VDD a_3784_8112# a_3696_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X29 a_3840_8156# a_3784_8112# a_3696_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X30 VDD a[2] a_240_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X31 VDD a_7584_8156# rwl0 VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X32 VSS a_6720_8156# a_7152_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X33 VDD ren a_2400_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X34 VDD a_2400_8156# a_4648_8112# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X35 VSS a[4] a_1680_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
X36 VDD a_7152_8156# a_7584_8156# VDD pfet_03v3 ad=0.1232p pd=1u as=0.1232p ps=1u w=0.56u l=0.28u
X37 a_1680_8156# a[3] a_1536_8156# VSS nfet_03v3 ad=0.4642p pd=2.99u as=0.4642p ps=2.99u w=1.055u l=0.28u
.ends

